US08980911B2
3,5-Dichloro-N-cyclopropyl-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)benzamide was prepared using 1H-pyrrolo[3,2-c]pyridine and 2,6-dichloro-4-(cycloproylcarbamoyl)benzoic acid.

reactant | 1H-pyrrolo[3,2-c]pyridine | N1C=CC=2C=NC=CC21 | C7H6N2
reactant | 2,6-dichloro-4-(cycloproylcarbamoyl)benzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)C(NC1CC1)=O)Cl | C11H9Cl2NO3
product | 3,5-Dichloro-N-cyclopropyl-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NC2CC2)C=C(C1C(=O)N1C=CC=2C=NC=CC21)Cl | C18H13Cl2N3O2
